US07781591B2
To a stirred solution of 4-[4-methoxy-3-(2-methoxyethoxy)phenyl]-3-oxo-butyronitrile (9.91 g, 34.5 mmol) in 20 mL of anhydrous DMF was added DMF-DMA (20.2 mL, 152 mmol). The resulting mixture was heated at 100° C. for 15 h and was concentrated in vacuo. The crude material was mixed with 3,4-dimethoxybenzylamine (0.687 mL, 41.4 mmol) in 20 mL of anhydrous toluene and the mixture was heated at reflux for 2 h. The reaction mixture was cooled, concentrated in vacuo, and purified by flash chromatography on silica gel eluting with gradient 50-100% EtOAc/hexane to yield 8.5 g (55% yield) of 1-(3,4-dimethoxybenzyl)-5-[4-methoxy-3-(2-methoxyethoxy)phenyl]-4-oxo-1,4-dihydro-pyridine-3-carbonitrile as a yellow/orange foam.

reactant | 4-[4-methoxy-3-(2-methoxyethoxy)phenyl]-3-oxo-butyronitrile | 34.5 mmol, 9.91 g | COC1=C(C=C(C=C1)CC(CC#N)=O)OCCOC | C14H17NO4
reactant | DMF-DMA | 152 mmol, 20.2 mL | CN(C)C(OC)OC | C5H13NO2
reactant | 3,4-dimethoxybenzylamine | 41.4 mmol, 0.687 mL | COC=1C=C(CN)C=CC1OC | C9H13NO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(3,4-dimethoxybenzyl)-5-[4-methoxy-3-(2-methoxyethoxy)phenyl]-4-oxo-1,4-dihydro-pyridine-3-carbonitrile | 8.5 g, 55% yield | COC=1C=C(CN2C=C(C(C(=C2)C2=CC(=C(C=C2)OC)OCCOC)=O)C#N)C=CC1OC | C25H26N2O6
